US09314464B2
Intermediate. 2-Chloro-4-(3-iodo-1-isopropyl-1H-pyrazol-4-yl)pyrimidine
A solution of Intermediate 4-(3-iodo-1-isopropyl-1H-pyrazol-4-yl)pyrimidin-2-ol (438 mg, 1.33 mmol) in phosphorous oxychloride (10 ml) was heated at 110° C. for 16 h. The mixture was concentrated under vacuum, then aqueous sodium bicarbonate solution was carefully added and the mixture was extracted with ethyl acetate. The combined organic extracts were dried over sodium sulfate, filtered, and concentrated to provide the title compound as a yellow solid. MS m/z 349.0 (M+1).

reactant | 4-(3-iodo-1-isopropyl-1H-pyrazol-4-yl)pyrimidin-2-ol | 1.33 mmol, 438 mg | IC1=NN(C=C1C1=NC(=NC=C1)O)C(C)C | C10H11IN4O
reactant | phosphorous oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-(3-iodo-1-isopropyl-1H-pyrazol-4-yl)pyrimidine | ClC1=NC=CC(=N1)C=1C(=NN(C1)C(C)C)I | C10H10ClIN4
